US05100893
A mixture of 14.1 parts of 3,5-dichloro-N,4-dihydroxybenzenecarboximidamide, 6.5 parts of propanoylchloride and 98 parts of pyridine was stirred for 4 hours at reflux temperature. The reaction mixture was concentrated and the residue was partitioned between water and dichloromethane. The organic layer was separated and washed successively with water (2×) and NaCl (dil.). The combined aqueous layers were washed with dichloromethane and then filtered over diatomaceous earth. After acidifying with acetic acid, the precipitate was filtered off and taken up in dichloromethane. This solution was dried, filtered and evaporated. The residue was crystallized from a mixture of ethanol and water. The product was filtered off and dried in vacuo at 50° C., yielding 4.25 parts (25.6%) of 2,6-dichloro-4-(5-ethyl-1,2,4-oxadiazol-3-yl)phenol; mp. 125.7° C. (interm. 11).

reactant | 3,5-dichloro-N,4-dihydroxybenzenecarboximidamide | ClC=1C=C(C=C(C1O)Cl)C(NO)=N | C7H6Cl2N2O2
reactant | propanoylchloride | C(CC)(=O)Cl | C3H5ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2,6-dichloro-4-(5-ethyl-1,2,4-oxadiazol-3-yl)phenol | 25.6% | ClC1=C(C(=CC(=C1)C1=NOC(=N1)CC)Cl)O | C10H8Cl2N2O2
